US07638515B2
1-(8-Fluoro-2-methylquinazolin-5-ylamino)-4,4-dimethyl-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalene-2,6-diol
60 mg (0.133 mmol) of 4-(3-methoxyphenyl)-1,1,1-trifluoro-2-{[8-fluoro-2-methylquinazolin-5-ylimino]-methyl}-4-methylpentan-2-ol is mixed with 1.3 ml of a 1 M solution of boron tribromide in dichloromethane while being cooled in an ice bath. After 45 minutes of stirring at room temperature, the reaction mixture is mixed with ice, and saturated sodium bicarbonate solution is added drop by drop until a pH of 8 is reached. The cold bath is removed, and the mixture is stirred vigorously for 15 minutes. After extraction with ethyl acetate, the combined organic extracts are washed with water and then with brine. After drying, the solvent is spun off, and the residue is chromatographed on silica gel (mobile solvent ethyl acetate/hexane). Finally, 19.5 mg (33.5%) of the desired compound is obtained.

reactant | 4-(3-methoxyphenyl)-1,1,1-trifluoro-2-{[8-fluoro-2-methylquinazolin-5-ylimino]-methyl}-4-methylpentan-2-ol | 0.133 mmol, 60 mg | COC=1C=C(C=CC1)C(CC(C(F)(F)F)(O)C=NC1=C2C=NC(=NC2=C(C=C1)F)C)(C)C | C23H23F4N3O2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(8-Fluoro-2-methylquinazolin-5-ylamino)-4,4-dimethyl-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalene-2,6-diol | 19.5 mg, 33.5% | FC=1C=CC(=C2C=NC(=NC12)C)NC1C(CC(C2=CC(=CC=C12)O)(C)C)(O)C(F)(F)F | C22H21F4N3O2
